US05663053
Diisopropyl-7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptane phosphonate
A solution of 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one (1.47g) and triisopropyl phosphite (3.12 g) in xylene (15 ml ) was heated at reflux temperature for 48 hours. The solution was evaporated to an oil and chromatographed on silica gel (ethyl acetate/ethanol). The resulting oil was taken up in diethyl ether, filtered and evaporated to the titled compound as a dear oil (0.33g; 19%) Found: C, 70.02; H, 7.53; N, 5.19%; C34H43N2O4P +1.5% H2O; Requires: C, 69.99; H, 7.60; N, 4.80%.

reactant | 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one | 1.47g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCBr)=O | C28H29BrN2O
reactant | triisopropyl phosphite | 3.12 g | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Diisopropyl-7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptane phosphonate | P(O)(O)=O.C(C)(C)C(CCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)C(C)C | InChI=1S/C34H42N2O.H3O3P/c1-26(2)31(27(3)4)24-16-5-6-17-25-35-32(28-18-10-7-11-19-28)33(29-20-12-8-13-21-29)36(34(35)37)30-22-14-9-15-23-30;1-4(2)3/h7-15,18-23,26-27,31H,5-6,16-17,24-25H2,1-4H3;4H,(H2,1,2,3)
